US08633175B2
3′-({[(4,4-dimethylcyclohexyl)methyl]amino}methyl)-2-methyl-4-biphenylcarboxamide hydrochloride
A mixture of 3′-formyl-2-methyl-4-biphenylcarboxamide (0.15 g, 0.63 mmol; Ex. IX-23), 4,4-dimethylcyclohexylmethylamine hydrochloride (0.28 g, 1.6 mmol; Ex III-1) and acetic acid (4 drops) in methanol was stirred at room temperature for 30 min. Sodium triacetoxyborohydride (0.34 g, 1.6 mmol) was added in one portion and the mixture was stirred at room temperature for 72 hr. Water (10 mL) was added and the mixture was stirred at room temperature for 2 hr. The mixture was concentrated in vacuo to remove the methanol and the residue was taken up in a mixture of ethyl acetate and 5% Na2CO3 (aq). The aqueous phase was extracted with ethyl acetate. The combined organic phase was washed with brine, silica gel was added and the mixture was concentrated in vacuo.

reactant | 3′-formyl-2-methyl-4-biphenylcarboxamide | 0.63 mmol, 0.15 g | C(=O)C=1C=C(C=CC1)C1=C(C=C(C=C1)C(=O)N)C | C15H13NO2
reactant | 4,4-dimethylcyclohexylmethylamine hydrochloride | 1.6 mmol, 0.28 g | Cl.CC1(CCC(CC1)CN)C
reactant | Sodium triacetoxyborohydride | 1.6 mmol, 0.34 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | 10 mL | O | H2O
catalyst | acetic acid | 4 drops | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 3′-({[(4,4-dimethylcyclohexyl)methyl]amino}methyl)-2-methyl-4-biphenylcarboxamide hydrochloride | Cl.CC1(CCC(CC1)CNCC=1C=C(C=CC1)C1=C(C=C(C=C1)C(=O)N)C)C | InChI=1S/C24H32N2O.ClH/c1-17-13-21(23(25)27)7-8-22(17)20-6-4-5-19(14-20)16-26-15-18-9-11-24(2,3)12-10-18;/h4-8,13-14,18,26H,9-12,15-16H2,1-3H3,(H2,25,27);1H
